US05773463
(±)trans-1-(4-Benzyloxyphenoxy)-2-ethoxycarbonylaminoindane
(±) cis-2-Ethoxy-3a,8b-dihydro-4H-indeno[2,1-d]oxazole (2.2 g, 10.8 mmol), 4-benzyloxyphenol (2.17 g, 10.8 mmol), p-toluenesulfonic acid (40 mg) were dissolved in toluene (50 ml) and heated at 60° C. for 5 h, then 2 h at reflux under nitrogen. On cooling, the reaction mixture was diluted with diethyl ether (150 ml) and washed sequentially with 10% aq. sodium hydroxide, water and brine. After drying over sodium sulfate, solvents were removed in vacuo and the residue subjected to column chromatography on silica gel eluting with 20% diethyl ether in hexanes to afford the title compound (1.17 g) as a foam.

reactant | (±) cis-2-Ethoxy-3a,8b-dihydro-4H-indeno[2,1-d]oxazole | 10.8 mmol, 2.2 g | C(C)OC=1O[C@@H]2[C@H](N1)CC1=CC=CC=C12 | C12H13NO2
reactant | 4-benzyloxyphenol | 10.8 mmol, 2.17 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
catalyst | p-toluenesulfonic acid | 40 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | (±)trans-1-(4-Benzyloxyphenoxy)-2-ethoxycarbonylaminoindane | 1.17 g | C(C1=CC=CC=C1)OC1=CC=C(O[C@H]2[C@@H](CC3=CC=CC=C23)NC(=O)OCC)C=C1 | C25H25NO4
